US08455475B2
2-Chloro-N-(6-(8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)benzamide
To a suspension of 3-[(2-chloro-benzoyl)amino]-2,3-dihydro-1H-indene-5-carboxylic acid (E-01) (789 mg, 2.49 mmol, 1.0 eq.) in THF (20 ml) was added HATU (1.04 g, 2.76 mmol, 1.1 equiv.) and DI PEA (2.1 ml, 12.4 mmol, 5 eq.) at 0° C. and the reaction mixture was allowed to stir for 15 min. A solution of 2,2,2-trifluoro-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone (587 mg, 2.49 mmol, 1.0 equiv.) in THF (5 ml) was then added and the reaction mixture was stirred at 25° C. for 15 h. The mixture was diluted with MC (300 ml) and washed successively with sodium bicarbonate solution (40 ml), ammonium chloride solution (50 ml), water (50 ml) and brine (50 ml). The organic layer was dried over sodium sulfate and the solvent evaporated under reduced pressure to obtain the crude material which was purified by column chromatography (silica gel; 0-3% methanol/MC) to yield the pure final product as a white solid. Yield: 72% (1 g, 1.8 mmol).

reactant | 3-[(2-chloro-benzoyl)amino]-2,3-dihydro-1H-indene-5-carboxylic acid | 2.49 mmol, 789 mg, 1.0 eq. | ClC1=C(C(=O)NC2CCC3=CC=C(C=C23)C(=O)O)C=CC=C1 | C17H14ClNO3
reactant | HATU | 2.76 mmol, 1.04 g, 1.1 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,2,2-trifluoro-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone | 2.49 mmol, 587 mg, 1.0 equiv. | FC(C(=O)N1CCC2(CCNC2)CC1)(F)F | C10H15F3N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Chloro-N-(6-(8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)benzamide | Yield: 72% | ClC1=C(C(=O)NC2CCC3=CC=C(C=C23)C(=O)N2CC3(CC2)CCN(CC3)C(C(F)(F)F)=O)C=CC=C1 | C27H27ClF3N3O3
